2181-10-18 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Assessed Urine lytes--> 500cc NS Bolus given
   TF begun
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-17**] 03:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-17**] 11:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-18**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 66 (66 - 80) bpm
   BP: 149/56(79) {90/34(48) - 171/115(118)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 41 Inch
             Total In:
                                                                  1,650 mL
                                                                    578 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                     80 mL
   Urine:
                                                                     85 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                    498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 335 (311 - 335) mL
   PS : 14 cmH2O
   RR (Set): 6
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/38/230/23/-1
   Ve: 5.9 L/min
   PaO2 / FiO2: 575
   Physical Examination
   Gen: intubated and sedated elderly AA female
   HEENT: OP clear, adentulous, MM slightly dry, surgical pupils
   Neck: No obvious JVD at 30 degrees, no LAD
   Cor: RRR 2/6 systolic murmur at LUSB
   Pulm: CTAB
   Abd: obese, soft, mildly distended, NT, G tube site appears clean +BS,
   Extrem: bilateral AKAs, stump sites appear normal without e/o erythema
   or inflammation
   Skin: no rashes noted
   Neuro: sedated, does not follow commands. Dolls eye intact.
   Labs / Radiology
   146 K/uL
   7.7 g/dL
   174 mg/dL
   2.1 mg/dL
   23 mEq/L
   6.7 mEq/L
   49 mg/dL
   103 mEq/L
   133 mEq/L
   22.9 %
   11.0 K/uL
        [image002.jpg]
   Na 137 K 4.6 Cl 105 HCO3 22 BUN 49 Cr 2.0
   Blood cx x2 NGTD, urine cx pending, No urine Eos, UA hazy, large blood,
   10 protein, Trace ketone,
   Iron 26 TIBC 300 Ferritin 1825 TRF 231 Lipase 127
                             [**2181-10-17**]  12:59 PM
                             [**2181-10-17**]  04:26 PM
                             [**2181-10-18**]  12:12 AM
                             [**2181-10-18**]  01:53 AM
                             [**2181-10-18**]  02:47 AM
   WBC
   10.1
   11.0
   Hct
   26.1
   22.9
   Plt
   172
   146
   Cr
   1.9
   2.1
   TropT
   0.39
   0.35
   0.31
   TCO2
   21
   24
   Glucose
   334
   174
   Other labs: PT / PTT / INR:20.4/61.6/1.9, CK / CKMB /
   Troponin-T:364/6/0.31, ALT / AST:35/162, Alk Phos / T Bili:81/0.1,
   Amylase / Lipase:79/127, Differential-Neuts:86.3 %, Lymph:9.7 %,
   Mono:3.9 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL,
   LDH:565 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Pt is a [**Age over 90 **]F with dementia, DM2, and PVD now admitted with respiratory
   failure in setting of probable aspiration.
   .
   # Respiratory Failure - DDx includes aspiration pneumonitis vs
   aspiration PNA, ACS, PE, PTX, infection/sepsis, medications/overdose,
   hypoglycemia or seizure. ACS ruled out with biomarkers trending down,
   no elevated CKMB, no acute ECG changes. She is being weaned off
   sedation, currently on 25 Fentanyl, off Versed. No relative hypoxia nor
   [**Name (NI) **] gradient (PAO2 410 on 100% FiO2)  argues against any primary
   process causing ongoing V/Q mismatch. Initial fever concerning for
   infxn but afebrile here. Fever may have been [**2-10**] pneumonitis rather
   than true pneumonia.
   -- continue broad spectrum antibiotics with vanc/zosyn for now in case
   of HCAP given fever, ? infiltrate vs. effusion R base
   -- F/U cultures: sputum culture, U/A and culture, blood cultures
   -- cycled cardiac enzymes, ? EKG changes but are stable compared with
   prior so unlikely
   -- wean O2 and change to PSV as tolerated
   -- VAP bundle
   -- Wean off vent as tolerated but currently requiring pressure support
   - [**Month (only) 8**] have difficulty ventilating since ETT seems too far advanced in
   CXR. Was apparently pulled back but no CXR repeat done. Will get repeat
   CXR
   .
   # DM2
   -- hold oral hypoglycemics
   -- fixed and SS insulin, FSQ qid, continue TF diet
   .
   # PVD
   -- stumps appear clean, monitor
   -- not on ASA or plavix, likely [**2-10**] h/o GIB
   .
   # anemia - unknown baseline. Normocytic. Iron studies c/w anemia of
   chronic disease. Also Guaiac positive. HCT decreased today , may be
   seoncdray to component of hemodilution as well.
   -- trend HCT, will recheck with pm labs
   .
   # Renal Insufficiency - unknown chronicity. Was 0.6 in [**2174**]. Uine lytes
   were c/w prerenal so given bolus x 2 and CXR appeasr slightly fluid
   overloaded on CXR
   -- hold ACE-I
   -- renally dose medications
   .
   # HTN - home regimen is ACE-I and BB
   -- hold ACE-I given renal failure and hyperkalemia
   -- continue metoprolol at lower dose for now, may need to increase to
   home dose
   .
   # Hyponatremia - mild, may be due to prerenal insufficiency given
   elevated creatinine and relartively dry MM, improved later this am,
   normalized at 137
   -- trend
   .
   # Seizure disorder
   -- phenobarb level therapeutic, continue home regimen
   -- avoid fluoroquinolones to not lower sz threshold
   .
   # Elevated INR - Likely due to poor nutritional status
   -- trial of vitamin K po 10mg x 1
   -- trend coags
   .
   # FEN:
   -- TF's per NH regimen, held currently in hopes of extubation. If not
   going to extubate today, will restart
   -- replete lytes prn
   .
   # PPx:
   -- subq heparin, bowel regimen, PPI
   .
   # Access:
   -- PIV x 2
   .
   # Code:
   -- full, confirmed with daughter, but would not want to remain
   intubated for extended period of time
   .
   # Communication:
   -- Daughter [**Name (NI) 1586**] [**Telephone/Fax (1) 1587**]
   -- Daughter [**Name (NI) 1588**] [**Telephone/Fax (1) 1589**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-10-17**] 03:11 PM
   20 Gauge - [**2181-10-17**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-10-18 09:48:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Rx with broad spectrum ABX
   Swicthed to MMV- then PSV
   Pan Cx
   Phenobarb level returned normal
   Cyckle enzymes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-17**] 03:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-18**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-10-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-10-18**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.4
   HR: 70 (66 - 80) bpm
   BP: 176/61(89) {90/34(48) - 182/115(118)} mmHg
   RR: 18 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 41 Inch
             Total In:
                                                                  1,650 mL
                                                                    832 mL
   PO:
             TF:
   IVF:
                                                                  1,410 mL
                                                                    722 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    140 mL
   Urine:
                                                                     85 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,365 mL
                                                                    692 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 325 (311 - 335) mL
   PS : 14 cmH2O
   RR (Set): 6
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.39/38/230/22/-1
   Ve: 5.2 L/min
   PaO2 / FiO2: 575
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, g tube
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   146 K/uL
   148 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.6 mEq/L
   49 mg/dL
   105 mEq/L
   137 mEq/L
   22.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2181-10-17**]  12:59 PM
                             [**2181-10-17**]  04:26 PM
                             [**2181-10-18**]  12:12 AM
                             [**2181-10-18**]  01:53 AM
                             [**2181-10-18**]  02:47 AM
   WBC
   10.1
   11.0
   Hct
   26.1
   22.9
   Plt
   172
   146
   Cr
   1.9
   2.0
   TropT
   0.39
   0.35
   0.30
   TCO2
   21
   24
   Glucose
   334
   148
   Other labs: PT / PTT / INR:20.4/61.6/1.9, CK / CKMB /
   Troponin-T:322/6/0.30, ALT / AST:35/162, Alk Phos / T Bili:81/0.1,
   Amylase / Lipase:79/127, Differential-Neuts:86.3 %, Lymph:9.7 %,
   Mono:3.9 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL,
   LDH:565 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   CXR: ETT only 1 cm above carina, evolving bilat effusions =- right
   gretare than left
   ECG: sinus at 90, no acute ST T changes compared to last tracing which
   is years old
   Assessment and Plan
   [**Age over 90 **] yo female with history of dementia and chronic G-tube feeds now
   admitted with acute onset of fever, hypoxemia and progression to
   respiratory failure.  Certainly patient does have clear risk for and
   evidence of aspiraiton event with possible plugging of airways leading
   to acute changes with rapid improvement in oxygenation.
   1)Acute Respiratory Failure- DDX aspiration based on story. Able to
   wean to
   -Wean FIO2,on PSV but needs sig pressure to maintain volumes. Inc
   compliance due to non cardiogenic edema in setting of evolving
   pneumonitis. Rx with ABX for possible aspiration event
Vanco/Zosyn
   -Will rule out for MI with CK serially given concern with ECG subtle
   changes and troponin elevation.
   2)Acute Renal Failure -This is suggested by the elevation in serum
   creatinine although true baseline needs to be established
   -FENa -renal azotemia
   -F/U Cr and UOP-Renal dose all meds
   3)Diabetes
will need insulin sliding scale as is poorly controlled in
   the setting of acute illness.
   ICU Care
   Nutrition: resrt tube 2PM if
   Glycemic Control:  ssri
   Lines:
   18 Gauge - [**2181-10-17**] 03:11 PM
   20 Gauge - [**2181-10-17**] 03:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: chlorhex,
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-10-19 05:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2181-10-18**] 09:55 AM
   Hypertensive in the afternoon, received Hydralazine x 1
   Pressure support decreased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-10-17**] 03:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-19**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-10-18**] 08:00 AM
   Hydralazine - [**2181-10-18**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-18**] 02:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-19**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 59 (59 - 74) bpm
   BP: 165/46(74) {128/39(62) - 182/123(136)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 41 Inch
             Total In:
                                                                  1,299 mL
                                                                    182 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                    769 mL
                                                                    160 mL
   Urine:
                                                                    769 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 392 (325 - 392) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   SpO2: 100%
   ABG: ///23/
   Ve: 5.2 L/min
   Physical Examination
   GEN: intubated, not sedated, responsive to noxious stimuli, but not
   voice, small effort to squeeze had when instructed, resisted eye
   opening
   HEENT: L pupil, round, not clearly reactive, R not viuslized, difficult
   to assess as pt resisted eye opening.
   Neck: supple, nontender, no JVD
   PULM: diffuse rhonchi and transmitted upper airway sounds, no rales, no
   wheezing, good inspiratory effort
   CARDs: RRR, s1, s2 wnl, 2/6 systolic murmur, LSB, rubs or gallops
   Labs / Radiology
   140 K/uL
   7.7 g/dL
   76 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   49 mg/dL
   106 mEq/L
   138 mEq/L
   23.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2181-10-17**]  12:59 PM
                             [**2181-10-17**]  04:26 PM
                             [**2181-10-18**]  12:12 AM
                             [**2181-10-18**]  01:53 AM
                             [**2181-10-18**]  02:47 AM
                             [**2181-10-18**]  07:10 PM
                            [**2181-10-19**]  03:13 AM
   WBC
   10.1
   11.0
   9.8
   8.0
   Hct
   26.1
   22.9
   24.9
   23.1
   Plt
   172
   146
   138
   140
   Cr
   1.9
   2.0
   1.9
   TropT
   0.39
   0.35
   0.30
   TCO2
   21
   24
   Glucose
   334
   148
   76
   Other labs: PT / PTT / INR:21.2/87.1/2.0, CK / CKMB /
   Troponin-T:322/6/0.30, ALT / AST:35/162, Alk Phos / T Bili:81/0.1,
   Amylase / Lipase:79/127, Differential-Neuts:86.3 %, Lymph:9.7 %,
   Mono:3.9 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL,
   LDH:565 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Pt is a [**Age over 90 **]F with dementia, DM2, and PVD now admitted with respiratory
   failure in setting of probable aspiration.
   .
   # Respiratory Failure - DDx includes aspiration pneumonitis vs
   aspiration PNA, ACS, PE, PTX, infection/sepsis, medications/overdose,
   hypoglycemia or seizure. ACS ruled out with biomarkers trending down,
   no elevated CKMB, no acute ECG changes. No relative hypoxia nor [**Name (NI) **]
   gradient (PAO2 410 on 100% FiO2)  argues against any primary process
   causing ongoing V/Q mismatch. Initial fever concerning for infxn but
   afebrile here. Fever may have been [**2-10**] pneumonitis rather than true
   pneumonia.  Has been weaned off of sedation and is satting well on PSV.
   Has sputum gram stain showing 4+ GPC p/c/c.  Mental status appears to
   be at or near her baseline.
   -- continue broad spectrum antibiotics with vanc/zosyn for now in case
   of HCAP given previous fevers, ? of PNA on xray, and now 4+ GPC p/c/c.
   Will continue until culture data and speciation returns.
   -- F/U cultures: sputum culture, U/A and culture, blood cultures
   -- VAP bundle
   -- Will try to extubate today, given her hypertension, will treat her
   with hydralazine first, and have Nitroglycerin at the bedside.
   -- Discussed with daughter extubation and plan is to reintubate if
   necessary.
   .
   # DM2
   -- hold oral hypoglycemics
   -- fixed and SS insulin, FSQ qid, continue TF diet
   .
   # PVD
   -- stumps appear clean, monitor
   -- not on ASA or plavix, likely [**2-10**] h/o GIB
   .
   # Anemia - unknown baseline. Normocytic. Iron studies c/w anemia of
   chronic disease. Also Guaiac positive. HCT decreased today , may be
   seoncdray to component of hemodilution as well. HCts stable now.
   -- trend HCT
   .
   # Renal Insufficiency - unknown chronicity. Was 0.6 in [**2174**]. Urine
   lytes were c/w prerenal so given bolus x 2 and CXR appeasr slightly
   fluid overloaded on CXR. Cr has been stable here 1.9, 2.0, 1.9.
   -- Given her hypertension, will restart her on her home dose of
   Lisinopril 5mg QD
   -- cont to trend Cr and  renally dose medications
   .
   # HTN - home regimen is ACE-I and BB
   -- restart lisinopril 5mg QD.
   -- Metroprolol change from 150 [**Hospital1 **], to 100 TID to give her better
   coverage during the day
   .
   # Hyponatremia - mild, may be due to prerenal insufficiency given
   elevated creatinine and relartively dry MM, improved later yesterday
   am, normalized at 137, has stayed constant at 138.
   -- trend
   .
   # Seizure disorder
   -- phenobarb level therapeutic, continue home regimen
   -- avoid fluoroquinolones to not lower sz threshold
   .
   # Elevated INR - Likely due to poor nutritional status, though trial of
   Vitamin K po 10mg x1 did not have significant improvement yesterday.
   -- Will check Fibrinogen and FDPs today
   -- Check LFTs,
   -- Repeat Vitamin K 10mg PO
   --
   # FEN:
   -- TF's per NH regimen, held currently in hopes of extubation. If not
   going to extubate today, will restart
   -- replete lytes prn
   .
   # PPx:
   -- subq heparin, bowel regimen, PPI
   .
   # Access:
   -- PIV x 2
   .
   # Code:
   -- full, confirmed with daughter, but would not want to remain
   intubated for extended period of time
   .
   # Communication:
   -- Daughter [**Name (NI) 1586**] [**Telephone/Fax (1) 1587**]
   -- Daughter [**Name (NI) 1588**] [**Telephone/Fax (1) 1589**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-10-17**] 03:11 PM
   20 Gauge - [**2181-10-17**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-10-19 10:11:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2181-10-18**] 09:55 AM
   Hypertension
   Low grade fevers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-19**] 08:05 AM
   Vancomycin - [**2181-10-19**] 09:06 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2181-10-18**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-18**] 02:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-19**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.2
   HR: 63 (58 - 71) bpm
   BP: 183/54(85) {128/39(62) - 185/68(94)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 41 Inch
             Total In:
                                                                  1,299 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                    769 mL
                                                                    400 mL
   Urine:
                                                                    769 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                    220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (332 - 392) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   SpO2: 100%
   ABG: 7.39/40/174/23/0
   Ve: 4.9 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Labs / Radiology
   7.7 g/dL
   140 K/uL
   76 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   49 mg/dL
   106 mEq/L
   138 mEq/L
   23.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2181-10-17**]  12:59 PM
                             [**2181-10-17**]  04:26 PM
                             [**2181-10-18**]  12:12 AM
                             [**2181-10-18**]  01:53 AM
                             [**2181-10-18**]  02:47 AM
                             [**2181-10-18**]  07:10 PM
                            [**2181-10-19**]  03:13 AM
                            [**2181-10-19**]  08:31 AM
   WBC
   10.1
   11.0
   9.8
   8.0
   Hct
   26.1
   22.9
   24.9
   23.1
   Plt
   172
   146
   138
   140
   Cr
   1.9
   2.0
   1.9
   TropT
   0.39
   0.35
   0.30
   TCO2
   21
   24
   25
   Glucose
   334
   148
   76
   Other labs: PT / PTT / INR:21.2/87.1/2.0, CK / CKMB /
   Troponin-T:322/6/0.30, ALT / AST:35/162, Alk Phos / T Bili:81/0.1,
   Amylase / Lipase:79/127, Differential-Neuts:86.3 %, Lymph:9.7 %,
   Mono:3.9 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL,
   LDH:565 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with history of dementia and chronic G-tube feeds now
   admitted with acute onset of fever, hypoxemia and progression to
   respiratory failure.  Certainly patient does have clear risk for and
   evidence of aspiration event with possible plugging of airways leading
   to acute changes with rapid improvement in oxygenation.
   1)Acute Respiratory Failure- DDX aspiration based on story.
   -Wean FIO2,on PSV but needs sig pressure to maintain volumes. Inc
   compliance due to non cardiogenic edema in setting of evolving
   pneumonitis. Rx with ABX for possible aspiration event
Vanco/Zosyn
   -Will rule out for MI with CK serially given concern with ECG subtle
   changes and troponin elevation.
   2)Acute Renal Failure -This is suggested by the elevation in serum
   creatinine although true baseline needs to be established
   -FENa -renal azotemia
   -F/U Cr and UOP-Renal dose all meds
   3)Diabetes
will need insulin sliding scale as is poorly controlled in
   the setting of acute illness.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-10-17**] 03:11 PM
   20 Gauge - [**2181-10-17**] 03:11 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: chlorhex, HOB
   Communication:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-10-20 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EVENTS:
   Discussed w/ daughter ? of re-intubation if extubation fails, daughter
   was clear about wanting reintubation.
   Extubated.
   Had 10mg Hydralizine before extubation.
   After extubation, increasingly HTN from170s increasing to 180-190s, to
   200s.
   Started Nitroglycerine drip 0.025-0.2 mcg/min, then up to 0.2-0.5
   mcg/min
   Gave another 5mg Lisinopril
   Hydralizine 10mg x 2, Hydralizine 20gm x 1, Ativan 0.5mg  without any
   improvement
   Pt had large bowel movement after which her pressures decreased to the
   150s
   INFO:
   VANC changed to 750 Q24
   Started Lisinopril 5mg (home dose)
   SPUTUM CX: growing 4+ MRSA ( on VANC/ZOSYN)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-10-19**] 08:05 AM
   Vancomycin - [**2181-10-19**] 09:06 AM
   Infusions:
   Nitroglycerin - 0.3 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2181-10-19**] 04:00 PM
   Lorazepam (Ativan) - [**2181-10-19**] 05:01 PM
   Hydralazine - [**2181-10-19**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-19**] 11:00 PM
   Morphine Sulfate - [**2181-10-20**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-20**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 66 (58 - 90) bpm
   BP: 183/66(94) {134/49(69) - 204/73(103)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 41 Inch
             Total In:
                                                                  1,347 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                  1,207 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  1,015 mL
                                                                    160 mL
   Urine:
                                                                  1,015 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (340 - 370) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: 7.39/40/174/23/0
   Ve: 5.7 L/min
   PaO2 / FiO2: 435
   Physical Examination
   GEN: extubated,  not sedated, responsive to noxious stimuli, but not
   voice, small effort to squeeze had when instructed, resisted eye
   opening,
   HEENT: Pupils equal, round, minimally reactive to light.
   Neck: supple, nontender, no JVD
   PULM: R side CTA, L side decreased breath sounds, pt positioned curled
   on left side, no sig rales, rhonchi, or wheezing.
   CARDs: RRR, s1, s2 wnl, 2/6 systolic murmur, LSB, rubs or gallops
   ABD: obese, mildly distended, PEG tube in place, dressing C/D/I,
   tympanetic, soft, not obviously tender.
   EXT: radial pulses 2+
   NEURO: pt resists eye opening, otherwise does not follow any commands
   Labs / Radiology
   140 K/uL
   7.4 g/dL
   133 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   46 mg/dL
   107 mEq/L
   139 mEq/L
   22.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2181-10-17**]  12:59 PM
                             [**2181-10-17**]  04:26 PM
                             [**2181-10-18**]  12:12 AM
                             [**2181-10-18**]  01:53 AM
                             [**2181-10-18**]  02:47 AM
                             [**2181-10-18**]  07:10 PM
                            [**2181-10-19**]  03:13 AM
                            [**2181-10-19**]  08:31 AM
                            [**2181-10-19**]  02:12 PM
                            [**2181-10-20**]  01:58 AM
   WBC
   10.1
   11.0
   9.8
   8.0
   7.1
   Hct
   26.1
   22.9
   24.9
   23.1
   24.4
   22.5
   Plt
   172
   146
   138
   140
   140
   Cr
   1.9
   2.0
   1.9
   1.7
   TropT
   0.39
   0.35
   0.30
   TCO2
   21
   24
   25
   Glucose
   [**Telephone/Fax (2) 1672**]3
   Other labs: PT / PTT / INR:19.8/51.3/1.8, CK / CKMB /
   Troponin-T:322/6/0.30, ALT / AST:[**Telephone/Fax (1) 1673**], Alk Phos / T Bili:63/0.3,
   Amylase / Lipase:33/24, Differential-Neuts:86.3 %, Lymph:9.7 %,
   Mono:3.9 %, Eos:0.1 %, Fibrinogen:392 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:3.1 g/dL, LDH:565 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   CXR: extubated, R lung field clear, L smaller volume, diaphragm not
   visible, LLLeffusion.
   Assessment and Plan
   Pt is a [**Age over 90 **]F with dementia, DM2, and PVD now admitted with respiratory
   failure in setting of probable aspiration.
   .
   # Respiratory Failure - DDx includes aspiration pneumonitis vs
   aspiration PNA, ACS, PE, PTX, infection/sepsis, medications/overdose,
   hypoglycemia or seizure. ACS ruled out with biomarkers trending down,
   no elevated CKMB, no acute ECG changes. No relative hypoxia nor [**Name (NI) **]
   gradient (PAO2 410 on 100% FiO2)  argues against any primary process
   causing ongoing V/Q mismatch. Initial fever concerning for infxn but
   afebrile here. Fever may have been [**2-10**] pneumonitis rather than true
   pneumonia.  Has been extubated and satting well on 2L nasal cannula.
   Has sputum gram stain showing 4+ GPC p/c/c and cx has not grown out
   CoAg + Staph, sensitivities pending.  Mental status appears to be at or
   near her baseline, though this needs to be confirmed with her family.
   -- Narrow abx to Vanc for HAP.
   -- F/U cultures: sputum culture, U/A and culture, blood cultures
   -- F/u CXR
   -- F/u lung exam as poor air movement on left this am
   # Elevated LFTs: On presentation her LFTs were ALT 32, AST 165. The
   followup set of LFTs was AST 783 ALT 1611, and today are 2245 / 3656.
   Differential for elevated LFTs would be Viral infection, toxic (e.g.
   acetaminophen), ischemia ([**2-10**] to hyperfusion or thrombosis.  Last
   lactate of 0.9 reassuring that is not ischemic.
   - Trend LFTs
   - Viral Hep studies
   - ABD ultrasound
   - ? CT abdomen
   # DM2
   -- hold oral hypoglycemics
   -- fixed and SS insulin, FSQ qid, continue TF diet
   .
   # PVD
   -- stumps appear clean, monitor
   -- not on ASA or plavix, likely [**2-10**] h/o GIB
   .
   # Anemia - unknown baseline. Normocytic. Iron studies c/w anemia of
   chronic disease. Also Guaiac positive. HCT decreased today , may be
   seoncdray to component of hemodilution as well. HCts stable now.
   -- trend HCT
   -- F/u Haptoglobin
   -- F/u Direct and Indirect bilirubin and LDH
   .
   # Renal Insufficiency - unknown chronicity. Was 0.6 in [**2174**]. Urine
   lytes were c/w prerenal so given bolus x 2 and CXR appeasr slightly
   fluid overloaded on CXR. Cr has been stable here 1.9, 2.0, 1.9.
   -- Given her hypertension, will restart her on her home dose of
   Lisinopril 5mg QD
   -- cont to trend Cr and  renally dose medications
   .
   # HTN
 Pt has been very hypertensive here, with BPs reaching
   200s/110s. Pt restarted on home BP meds, lisinopril 5mg, and
   Metroprolol 100 PO TID (changed from 150 [**Hospital1 **] for better coverage).
   -- added Amlodipine
   # Hyponatremia - mild, may be due to prerenal insufficiency given
   elevated creatinine and relartively dry MM, improved later yesterday
   am, normalized at 137, has stayed constant at 138.
   -- trend
   .
   # Seizure disorder
   -- phenobarb level therapeutic, continue home regimen
   -- avoid fluoroquinolones to not lower sz threshold
   .
   # Elevated INR - Likely due to poor nutritional status, though trial of
   Vitamin K po 10mg x1 did not have significant improvement yesterday.
   -- Will check Fibrinogen and FDPs today
   -- Check LFTs,
   -- Repeat Vitamin K 10mg PO
   # FEN:
   -- TF's per NH regimen, held yesterday for extubation.
   -- Restart TFs slowly, check residuals
   -- replete lytes prn
   .
   # PPx:
   -- subq heparin, bowel regimen, PPI
   .
   # Access:
   -- PIV x 2
   .
   # Code:
   -- full, confirmed with daughter, but would not want to remain
   intubated for extended period of time
   .
   # Communication:
   -- Daughter [**Name (NI) 1586**] [**Telephone/Fax (1) 1587**]
   -- Daughter [**Name (NI) 1588**] [**Telephone/Fax (1) 1589**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-19**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 924**]
s note above and
   agree with the findings and plan of care. I would add or emphasize the
   following:  The patient continues to do well following yesterday
   extubation.  She is being treated for a [**Hospital 1684**] healthcare associated
   pneumonia with vancomycin.  She remains unresponsive, quite like what I
   am to believe has been her nursing home baseline.  Her LFTs are now
   elevated and rising, and GI has been consulted.  The differential
   includes
shock
 liver (her BP had been documented to be low), drug
   induced (hydralazine), viral, etc.  We will aim to keep her
   normotensive, stop hydralazine, and we are checking viral serologies.
   Despite her limited level of functioning and prognosis, she remains a
   full code for the present.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2181-10-20**] 14:57 ------